US07902367B2
Step 77c) Methyl 3-[3-[(4′-chlorobiphenyl-4-yl)methoxy]piperidin-1-yl]benzoate
Using 3-[(4′-chlorobiphenyl-4-yl)methoxy]piperidine (220 mg, 0.729 mmol) and 3-(methoxycarbonyl)phenylboric acid (263 mg, 1.46 mmol), the same procedure was followed as in Example 2 to give 107 mg (34%) of the desired compound as a colorless oil.

reactant | 3-[(4′-chlorobiphenyl-4-yl)methoxy]piperidine | 0.729 mmol, 220 mg | ClC1=CC=C(C=C1)C1=CC=C(C=C1)COC1CNCCC1 | C18H20ClNO
reactant | 3-(methoxycarbonyl)phenylboric acid | 1.46 mmol, 263 mg | COC(=O)C=1C=C(C=CC1)OB(O)O | C8H9BO5
product | Methyl 3-[3-[(4′-chlorobiphenyl-4-yl)methoxy]piperidin-1-yl]benzoate | 107 mg, 34% | ClC1=CC=C(C=C1)C1=CC=C(C=C1)COC1CN(CCC1)C=1C=C(C(=O)OC)C=CC1 | C26H26ClNO3
